US08084442B2
Synthesis of 3(S)-(3-chloro-4-methoxyphenylamino)pyrrolidine-1-carboxylic acid tert-butyl ester
To a 5 ml of toluene solution containing 0.20 g of 3(S)-aminopyrrolidine-1-carboxylic acid tert-butyl ester (1.1 mmol) and 0.238 g of 2-chloro-3-bromoanisole (1.1 mmol) were added 67.0 mg of BINAP (0.11 mmol), 24 mg of tris(dibenzylideneacetone)dipalladium (0.027 mmol) and 144 mg of sodium tert-butoxide (1.5 mmol). The mixture was heated under reflux under a nitrogen atmosphere at 100° C. for one hour. After cooling to room temperature, the reaction solution was filtered using Celite. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=10:1→3:1). The purified product was concentrated to dryness under reduced pressure to thereby obtain 0.28 g of light yellow amorphous solid 3(S)-(3-chloro-4-methoxyphenylamino)pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | 3(S)-aminopyrrolidine-1-carboxylic acid tert-butyl ester | 1.1 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N | C9H18N2O2
reactant | 2-chloro-3-bromoanisole | 1.1 mmol, 0.238 g | ClC1=C(C=CC=C1Br)OC | C7H6BrClO
reactant | BINAP | 0.11 mmol, 67.0 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 1.5 mmol, 144 mg | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.027 mmol, 24 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 3(S)-(3-chloro-4-methoxyphenylamino)pyrrolidine-1-carboxylic acid tert-butyl ester | 0.28 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=CC(=C(C=C1)OC)Cl | C16H23ClN2O3
